US07902226B2
Ethyl 2-(2,6-dichloronicotinoyl)acetate
Monoethyl malonate (6.61 g, 50.0 mmol) was dissolved in anhydrous tetrahydrofuran (100 ml), and after adding magnesium ethoxide (3.15 g, 28.0 mmol) thereto while cooling with ice, it was stirred at room temperature for 3 hours. The reaction solution was then concentrated under a reduced pressure, thereby preparing a magnesium salt of monoethyl malonate. 2,6-dichloronicotinic acid (3.84 g, 20.0 mmol) was then dissolved in anhydrous tetrahydrofuran (80 ml), and after adding 1,1-carbonyldiimidazole (4.87 g. 30.0 mmol) while cooling with ice, it was stirred at room temperature for 1.5 hours. To this solution, a solution, wherein the previously prepared magnesium salt of monoethyl malonate was dissolved in anhydrous tetrahydrofuran (160 ml), was added dropwise over a period of 10 minutes while cooling with ice. After completion of dripping, the temperature was gradually brought back to room temperature and thereafter, stirring was performed for 4 hours. After adding ethyl acetate (200 ml) to the reaction solution, the organic layer was washed with a 10% aqueous citric acid solution (150 ml×2), saturated sodium bicarbonate water (150 ml), and saturated saline solution (150 ml), in that order, and then dried over anhydrous sodium sulfate. After filtering, the residue obtained by concentration under a reduced pressure of the filtrate was applied to a silica gel chromatography, and 4.24 g (81%) of the title compound was obtained in the form of a pale-pink, oily substance from an n-hexane:ethyl acetate=3:1 eluate.

reactant | Monoethyl malonate | 50.0 mmol, 6.61 g | C(CC(=O)[O-])(=O)OCC
reactant | magnesium ethoxide | 28.0 mmol, 3.15 g | [O-]CC.[Mg+2].[O-]CC
reactant | 2,6-dichloronicotinic acid | 20.0 mmol, 3.84 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | Ethyl 2-(2,6-dichloronicotinoyl)acetate | 4.24 g, 81% | ClC1=C(C(=O)CC(=O)OCC)C=CC(=N1)Cl | C10H9Cl2NO3
